US04551460
A mixture of 11.3 g of 2-[3-(3-pyridyl)propyl]-1H-isoindole-1,3(2H)-dione and 10.1 g of hydrazine hydrate was refluxed in 200 ml of ethanol for 6 hours, allowed to cool, and was filtered. The filtrate was concentrated and the residue distilled to give 4.77 g (70%) of 3-pyridinepropanamine, bp 84°-86° C./0.35 mm.

reactant | 2-[3-(3-pyridyl)propyl]-1H-isoindole-1,3(2H)-dione | 11.3 g | N1=CC(=CC=C1)CCCN1C(C2=CC=CC=C2C1=O)=O | C16H14N2O2
reactant | hydrazine hydrate | 10.1 g | O.NN
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-pyridinepropanamine | 4.77 g, 70% | N1=CC(=CC=C1)CCCN | C8H12N2
